US04219462
To a solution of ethyl α-bromo-α-formylpropionate (20 g.) in dimethoxyethane (200 ml.) is added a solution of sodium azide (8 g.) in water (40 ml.) and the mixture is stirred at room temperature for 5 hours. The dimethoxy ethane is removed under reduced pressure and the residue is taken up in a mixture of ether and water. The ethereal phase is separated, washed with water, dried over anhydrous sodium sulfate and evaporated yielding ethyl α-azido-α-formylpropionate which is purified by vacuum distillation.

reactant | ethyl α-bromo-α-formylpropionate | 20 g | BrC(C(=O)OCC)(C)C=O | C6H9BrO3
reactant | sodium azide | 8 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethoxyethane | 200 ml | C(OC)COC | C4H10O2
solvent | water | 40 ml | O | H2O
product | ethyl α-azido-α-formylpropionate | N(=[N+]=[N-])C(C(=O)OCC)(C)C=O | C6H9N3O3
